US06762197B2
2.00 g (10.1 mmol) of 2-methyl-5-phenylbenzyl alcohol was dissolved in 100 ml of ethyl acetate, and to this solution was added 4.2 ml (30.3 mmol) of triethylamine and the mixture was cooled to 0° C. To the reaction mixture was slowly dropped 1.73 g (15.1 mmol) of methanesulfonyl chloride, and the reaction mixture was controlled to room temperature. After stirring for 1 hours at room temperature, the reaction mixture was made acidic by addition of 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate solution and saturated saline sequentially, dried over anhydrous magnesium sulfate, then, concentrated. The residue was subjected to silica gel column chromatography (eluant: hexane/ethyl acetate=4/1 (v/v)), to obtain 2.79 g of 2-methyl-5-phenylbenzyl methanesulfonate.

reactant | 2-methyl-5-phenylbenzyl alcohol | 10.1 mmol, 2.00 g | CC1=C(CO)C=C(C=C1)C1=CC=CC=C1 | C14H14O
reactant | triethylamine | 30.3 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15.1 mmol, 1.73 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-phenylbenzyl methanesulfonate | 2.79 g | CS(=O)(=O)OCC1=C(C=CC(=C1)C1=CC=CC=C1)C | C15H16O3S
